Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___
 
Chief Complaint:
Cough and shortness of breath 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M with PMHx of CAD s/p stenting, Afib/flutter, DM with 
neuropathy and tobacco dependance who presents with productive 
cough and SOB for 3 days. Pt reports upper respiratory 
congestion and cough with yellow sputum but denies fever & 
chills.  Pt describes PND, orthopnea and new nocturia but has 
minimal exertion capacity and denies DOE.  He also reports 
approx 1 wk of difficulty swallowing, coughing with thin liquids 
though no prior history of aspiration.  Pt has poor dentition 
and difficulty chewing solid foods. He initially presented to 
his PCP on ___ morning and was discharged with prescription 
of Azithro and plan for outpt CXR.  However, his shortness of 
breath worsened overnight and he presented to the ED early 
___ morning.
.
VS on arrival to the ED were: T 97.6 BP 148/104 HR 122 RR 28 
Sats 100% on RA.  CXR revealed LLL infiltrate and pt received 
Ceftriaxone 1gram, Azithromycin 500mg, Prednisone 60mg, Duonebs 
and 3L of NS IVF. Pt was given diltiazem 20mg IV for HR of 130 
and was noted to have increasing O2 requirement.  Pt was unable 
to wean from NRB and was started on diltiazem gtt for rate 
control.  Repeat CXR showed worsening pulm edema and LLL 
consolidation.
.
On arrival to CCU, pt was feeling better, still c/o cough and 
mild SOB.  Denies any fevers/chills, CP/palpitations, abd pain, 
nausea/vomiting or diarrhea.
 
Past Medical History:
# CAD s/p PCI x 2 with a history of MI and angioplasty ___ years 
ago. His most recent cardiac catheterization was in ___ at ___ which revealed non-flow 
limiting three-vessel disease and no intervention was performed 
at that time.  
# Atrial flutter/atrial tachycardia status post ablation in 
___ with breakthrough atrial tachycardia and atrial 
flutter  
# Atrial fibrillation- baseline HR 100-120 outpatient  
# DM type II - on NPH, recent A1C 6.6  
# ___ DMII wheelchair bound w/ caregiver  
# PVD followed by Dr. ___  
# Colon Ca -- s/p partial colectomy ___, no radiation or chemo  

# Neuropathy -- progressing to R arm now; legs unchanged, uses  
# Spinal Stenosis -- MRI done ___, no emergent issues, but  
some retrolisthesis of L4-5.  
# Anemia--Longstanding normocytic, unclear etiology  
# Alcoholism- Likely Active  
# Retinopathy-  
# Intracranial ___- fainted after dose of Amytripile 
and had intracranial bleed by rt inner ear.  

 
Social History:
___
Family History:
no family hx of heart disease. Both parents died at ___ of "old 
age."
 
Physical Exam:
Vitals: T: 97.5 BP: 127/82 P: 127 R: 24 O2: 93% on NRB  
General: Alert, oriented, no acute distress 
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP elevated approx 3cm below angle of the jaw
Lungs: No appreciable wheezes, occaisional rhonchi and 
inspiratory crackles at L>R base, clear with coughing.  
CV: Irreg/Irreg & tachycardic, diff to apprec murmurs, rubs, 
gallops
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding
Ext: Warm, 2+ pulses, no edema
 
Pertinent Results:
___ 07:56AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 07:56AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 07:56AM URINE  RBC-5* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 07:56AM URINE  MUCOUS-RARE
___ 04:56AM   LACTATE-1.7
___ 04:15AM   GLUCOSE-81 UREA N-13 CREAT-0.4* SODIUM-138 
POTASSIUM-3.3 CHLORIDE-105 TOTAL CO2-24 ANION GAP-12
___ 04:15AM   estGFR-Using this
___ 04:15AM   WBC-7.3 RBC-3.64* HGB-10.4* HCT-30.8* MCV-85 
MCH-28.7 MCHC-33.8 RDW-16.1*
___ 04:15AM   NEUTS-57.0 ___ MONOS-4.8 EOS-2.2 
BASOS-0.8
___ 04:15AM   PLT ___ ECHO

The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is top 
normal/borderline dilated. Overall left ventricular systolic 
function is low normal (LVEF 50-55%). The right ventricular 
cavity is dilated with depressed free wall contractility. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild to moderate (___) mitral regurgitation is seen. 
Moderate [2+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

Compared with the prior study (images reviewed) of ___, 
tricuspid regurgittaion is now more prominent and estimated 
pulmonary artery systolic pressure is now higher. Left 
ventricular and right ventricular systolic function is less 
vigorous.  

___ CXR

COMPARISON: Chest radiograph from ___ obtained of 
04:16 a.m. and chest radiograph from ___. 
  
The left lower lobe consolidation accompanied by pleural 
effusion is 
unchanged but there is overall progression of perihilar vascular 
engorgement continuing towards the right lower lung with small 
right pleural effusion present. The radiological picture is 
consistent with mild-to-moderate pulmonary edema with the 
abnormality at the left lung being either a separate entity such 
as a pneumonia and parapneumonic effusion or potentially can be 
due to asymmetric pulmonary edema. There is no pneumothorax. The 
cardiomediastinal silhouette is unchanged. 
  
ADDENDUM: Findings were discussed with Dr. ___ over the 
phone by Dr. ___ at 8:55 a.m. on ___. 

___ CXR

1. Increase in consolidation at the left lung base with slight 
increase in pleural effusion is concerning for pneumonia. 

2. CHF with new mild-to-moderate pulmonary edema is unchanged. 

 
Brief Hospital Course:
___ year-old male with coronary artery disease, atrial 
fibrillation, diabetes mellitus type with neuropathy and tobacco 
dependance admitted ___ with productive cough and SOB for 3 
days. Patient was initially admitted to MICU, then medicine 
service, and finally to cardiology service prior to discharge. 
Hospital course was as follows.

1. Hypoxia:  Etiology likely multifactorial. On initial 
presentation, patient was with adequate O2 saturation on RA and 
became progressively hypoxic with IVF resuscitation and Afib 
with RVR.  Lobar pneumonia treated with good response with 
ceftriaxone (ten day course with 3 days of cefpodoxime 
prescribed at discharge) and azithromycin (5 day course).  Pt 
became fluid overloaded intermittently with shortness of breath, 
which responded well to 20mg IV furosemide.  Pt also experienced 
great symptomatic relief with brochodilators suggesting a 
brochospasm component to his dyspnea.  After several days of 
gentle diuresis, antibiotics and nebulizer treatments, patient 
was saturating 95% on room and breathing comfortably.  
Discharged on continued antibiotics, furosemide, and albuterol.

2. Chronic diastolic heart failure:  TTE on ___ revealed EF 
50-55% with minimal decrease in systolic function from prior 
TTE.  Evidence of pulmonary hypertension. On cardiology service, 
patient experienced tachypnea at night which appeared consistent 
with PND. He was given Lasix with good response.

3. Atrial fibrillation with RVR:  Patient has known atrial 
fibrillation and is status-post failed ablation. Suspect current 
worsening precipitated by CAP, hypoxia & long standing smoking 
history. Patient not anti-coagulated per Dr. ___ 
history of IVH from multiple falls.  He was treated with 
increased doses of metoprolol and continued to enter A-Fib with 
RVR to the 140's.  For a short time his Toprol XL dose was 
doubled. On discharge, his heart rate was well-controlled with 
diltiazem SR 240mg PO daily and metoprolol succinate 100mg PO 
daily.

4. Coronary artery disease:  Patient was without chest pain 
during episodes of atrial fibrillation with RVR. EKGs 
essentially unchanged though low voltage in limb leads. He was 
continued on aspirin, Plavix, beta-blocker, and statin per his 
home regimen.

5. Diabetes mellitus, type II:  Blood sugars poorly controlled, 
in the 300-400 despite excellent outpatient control with A1C of 
6.6. This was likely due to prednisone treatment in the ED and 
the stress of his illness. ___ was involved in management and 
guided daily insulin regimen changes. Patient's diabetes 
mellitus is complicated by neuropathy; he was continued on 
gabapentin 300mg PO TID per home regimen.

6. Alcohol use:  Patient has been known to have significant 
alcohol intake. His alcohol level was elevated on admission. He 
was counseled on alcohol cessation. He was monitored on CIWA 
protocol and showed no signs of withdrawal. He was also started 
on a MVI, folic acid, and thiamine.

7. Hypertension:  Well-controlled throughout hospitalization 
with metoprolol and diltiazem as above.

8. Anemia:  Hematocrit remained at baseline (~30). Normocytic 
with labs consistent with iron deficiency. Patient with known 
history of colon cancer s/p partial colectomy. Continued iron 
325mg PO daily, and recommend to patient that he have a repeat 
colonoscopy as an outpatient.

9. ?COPD:  No PFTs in our system. Unclear where how this 
diagnosis came about. Continued ipratropium prn, and 
discontinued albuterol given episodes of tachycardia.

10. Pulmonary hypertension:  Moderate based on recent TTE. 
Source unclear, but may be related to left heart failure +/- 
acute illness. Patient recommended to have pulmonary follow-up 
as an outpatient.

11. Nutrition:  He was evaluated by speech and swallow given 
presumed aspiration pneumonia, as described as above.He was 
recommended for a nectar prethickened liquid diet.

**Communication: ___, ___ ___
 
Medications on Admission:
Lipitor 40mg daily
Plavix 75mg daily
Novolog 70/30 14units qam and 4units qpm
Cymbalta 30mg daily
Aspirin 325mg daily
MIV daily
Diltiazem SR 120mg daily
Albuterol inhaler q4hr prn
Azithromycin 500mg x 1, 250mg x 4  (started ___
Gabapentin 300mg TID 
Folic Acid 1mg daily
Toprol XL 100mg daily

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Atorvastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
5. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
9. Diltiazem HCl 240 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).
Disp:*30 Capsule, Sustained Release(s)* Refills:*2*
10. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
11. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
12. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
13. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: Two (2) 
inhalations Inhalation every six (6) hours as needed for 
shortness of breath or wheezing.
Disp:*1 month supply* Refills:*0*
14. Cefpodoxime 200 mg Tablet Sig: One (1) Tablet PO every 
twelve (12) hours for 3 days.
Disp:*5 Tablet(s)* Refills:*0*
15. Lantus 100 unit/mL Solution Sig: ___ (25) units 
Subcutaneous In the morning.
Disp:*30 day supply* Refills:*2*
16. Novolog 100 unit/mL Solution Sig: As per attached sliding 
scale algorithm  Subcutaneous four times a day.  
17. Insulin Syringes (Disposable) 1 mL   Syringe Sig: As per 
Lantus prescription  Miscellaneous once a day.
Disp:*10 syringes* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Lobar Pneumonia, community acquired pneumonia vs. aspiration 
pneumonia
- Atrial fibrillation with rapid ventricular rate
- Acute on chronic systolic heart failure

Secondary:
- Diabetes mellitus type II complicated by retinopathy and 
neuropathy
- History of colon cancer
- Iron-deficient anemia

 
Discharge Condition:
Hemodynamically stable. Uses wheelchair for mobility (baseline).

 
Discharge Instructions:
You were admitted to the hospital because of difficulties 
breathing and a fast heart rate.  You were found to have 
pneumonia and extra fluid in your lungs which was making it hard 
to breath.  During your hospital stay, you were given 
antibiotics for your pneumonia and your heart rate was 
controlled by increasing some of your medications. We also gave 
you a medication to keep fluid off of your lungs. We also 
discovered you had a low blood count due to an iron deficiency.  
This may mean you have another problem in your colon, and it may 
be necessary to have another colonoscopy in the future.  Please 
discuss this with your doctor.

Your medication regimen has changed. Please review your 
medication list closely.

Please attend all the follow up appointments indicated below.

If you have any of the following problems or any symptoms that 
are concerning to you, please return to the emergency department 
or call your physician:
- ___ breathing,
- Fever,
- Fast heart rate,
- Confusion,
- Inability to eat, or
- Pain or pressure in your chest.
 
Followup Instructions:
___